US08859591B2
To a 0° C. solution of 1-(4-methoxy-2-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole (400 mg, 2 mmol) in dichloromethane (5 mL) was added boron tribromide (1 g, 6 mmol). The mixture was allowed to warm to room temperature and stir overnight. The reaction was quenched with methanol (2 mL), diluted with water (10 mL), and extracted with dichloromethane (3×10 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated to give 3-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenol (390 mg, 99%) as a brown solid. 1H NMR (400 MHz, CDCl3, δ): 7.83 (s, 1H), 7.74 (s, 1H), 7.08 (d, J=8.4 Hz, 1H), 6.65 (s, 1H), 6.62 (d, J=8.4 Hz, 1H), 5.57 (s, 1H), 2.05 (s, 3H).

reactant | 1-(4-methoxy-2-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole | 2 mmol, 400 mg | COC1=CC(=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C12H11F3N2O
reactant | boron tribromide | 6 mmol, 1 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenol | 390 mg, 99% | CC=1C=C(C=CC1N1N=CC(=C1)C(F)(F)F)O | C11H9F3N2O
